US05929098
To a cooled solution (ice bath) of 10.8 g of methyl 4-acetamido-3-chloro-5-methylbenzoate in 73.8 ml of glacial acetic acid; and 73.8 ml of acetic anhydride were added dropwise 11 mL of concentrated sulfuric acid followed by the portion wise addition of 12.96 g (0.1295 mole) of chromium trioxide over a 25 minute period. The reaction mixture was stirred at 0° C. for 2.5 hours and then poured into a mixture of 612 g of ice and 162 ml of water. The resulting aqueous mixture was extracted with methylene chloride (4×250 ml). The combined organic layers were washed sequentially with water (3×250 ml), 5% aqueous sodium bicarbonate (2×250 ml) and then brine (1×250 ml) and dried over anhydrous magnesium sulfate. The solvent was removed in a rotary evaporator. The resulting residue was purified by chromatographic column (silica gel, ethyl acetate:hexane 30:70 followed by ethyl acetate:hexane 50:50), yielding 2.5 g methyl 4-acetamido-3-chloro-5-formylbenzoate.

reactant | methyl 4-acetamido-3-chloro-5-methylbenzoate | 10.8 g | C(C)(=O)NC1=C(C=C(C(=O)OC)C=C1C)Cl | C11H12ClNO3
reactant | acetic anhydride | 73.8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | 11 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 162 ml | O | H2O
solvent | acetic acid | 73.8 ml | C(C)(=O)O | C2H4O2
catalyst | chromium trioxide | 0.1295 mole, 12.96 g | [O-2].[O-2].[O-2].[Cr+6]
product | methyl 4-acetamido-3-chloro-5-formylbenzoate | 2.5 g | C(C)(=O)NC1=C(C=C(C(=O)OC)C=C1C=O)Cl | C11H10ClNO4
